US07671063B2
A solution of N-(3-allyloxy-2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-phenyl)-2,2-dimethyl-propionamide (387 mg, 1.05 mmol) in ethanol (12 ml) and 12 drops of conc HCl (aprox. 0.2 ml) is refluxed for 36 h. After evaporation of the solvent, the residue is partitioned between ammonia (pH 10 to 11) and EtOAc. The organic layer is dried (Na2SO4) and evaporated. Chromatography (silica gel, EtOAc/hexanes=2:1) afforded N-(3-allyloxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide containing some N-(3-allyloxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide. Treatment of this material with ethanol (20 ml) and conc. HCl (2 ml) for 30 h at reflux temperature and workup as above gives N-(3-allyloxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide.

reactant | N-(3-allyloxy-2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-phenyl)-2,2-dimethyl-propionamide | 1.05 mmol, 387 mg | C(C=C)OC=1C(=C(C=CC1)NC(C(C)(C)C)=O)S(/N=C/N(C)C)(=O)=O | C17H25N3O4S
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | HCl | 12 drops | Cl | ClH
product | N-(3-allyloxy-2-sulfamoyl-phenyl)-2,2-dimethyl-propionamide | C(C=C)OC=1C(=C(C=CC1)NC(C(C)(C)C)=O)S(N)(=O)=O | C14H20N2O4S
